US05294612
1-Cyclopentyl-3-nitro-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4 -amine
To a solution of 1-cyclopentyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-amine (4.6 g, 0.016 mol) in sulfuric acid (60 ml) in an ice-bath was added dropwise 70% nitric acid (36.8 ml). The reaction mixture was warmed to room temperature, stirred for 30 minutes then heated on a steam bath for 3/4 hour. The reaction mixture was added to ice-water/50% sodium hydroxide and the pH was adjusted to 4-5 with acetic acid. The product was collected by filtration and washed with water. The solid residue was purified by preparative thin layer chromatography on silica eluting with ethyl acetate (100%) to afford, after recrystallization from ethyl acetate, 0.81 g (16%) of 1-cyclopentyl-3-nitro-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine, m.p. 239°-241° C. when dried for 16 hours at 110° C. in high vacuum.

reactant | 1-cyclopentyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-amine | 0.016 mol, 4.6 g | C1(CCCC1)N1N=CC=2C1=NC(=NC2N)C2=CC=NC=C2 | C15H16N6
reactant | nitric acid | 36.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Cyclopentyl-3-nitro-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4 -amine | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=CC=NC=C2)[N+](=O)[O-] | C15H15N7O2
